US03959488
A stirred mixture of 4.3 g. (.03 mole) of p-toluidine hydrochloride and 2.5 g. (0.03 mole) of cyanoguanidine is immersed in a a 210° C. oil bath for fifteen minutes. The resulting amber glass-like reaction product is dissolved in 100 ml of water, alkalized with 40% sodium hydroxide solution, and extracted with 250 ml of ether. The ether layer is backwashed twice with 10 ml of water, dried over sodium carbonate, filtered, and the ether solution made strongly acidic with a saturated etheral hydrochloric acid solution. The precipitate is collected on a filter, washed twice with 50 ml of anhydrous ether, and dried in vacuo at 25°C to obtain 1-(p-tolyl)biguanide dihydrochloride.

reactant | p-toluidine hydrochloride | .03 mole | Cl.NC1=CC=C(C=C1)C
reactant | cyanoguanidine | 0.03 mole | C(#N)NC(=N)N | C2H4N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1-(p-tolyl)biguanide dihydrochloride | Cl.Cl.C1(=CC=C(C=C1)NC(=N)NC(=N)N)C | InChI=1S/C9H13N5.2ClH/c1-6-2-4-7(5-3-6)13-9(12)14-8(10)11;;/h2-5H,1H3,(H6,10,11,12,13,14);2*1H
